US09062048B2
Step A: 8-(oxiran-2-yl)-1,4-dioxaspiro[4.5]decane
To a solution of 8-vinyl-1,4-dioxaspiro[4.5]decane (370 mg, 2.20 mmol), prepared as described in Example 9 Step A, in DCM (20 mL) cooled to 0° C. was added mCPBA (532 mg, 2.37 mmol, 77%). The mixture was stirred warming to room temperature over 1 hour and then concentrated in vacuo without heating. The residue was purified by flash chromatography (silica gel, 0-50% ether/DCM) to afford the product.

reactant | 8-vinyl-1,4-dioxaspiro[4.5]decane | 2.20 mmol, 370 mg | C(=C)C1CCC2(OCCO2)CC1 | C10H16O2
reactant | mCPBA | 2.37 mmol, 532 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 8-(oxiran-2-yl)-1,4-dioxaspiro[4.5]decane | O1C(C1)C1CCC2(OCCO2)CC1 | C10H16O3
